US05015655
1-azabicyclo-[2,2,2]-octan-3-carboxaldehyde O-2-propynyloxime
The operation is carried out as in Example 1 using 1.75 g of 3-methoxy methylidene quinuclidine, 3.8 cm3 of perchloric acid and 1.22 g of O-2-propynylhydroxylamine hydrochloride (U.S. Pat. No. 3,398,180 (1968)). After the ethyl ether has been evaporated off, the residue is chromatographed on silica (eluant: chloroform-methanol 7-3) then distilled at 190° C. under 0.05 mbar and 1.35 g of expected product is obtained.

reactant | 3-methoxy methylidene quinuclidine | 1.75 g | COC=C1CN2CCC1CC2 | C9H15NO
reactant | perchloric acid | 3.8 cm3 | Cl(=O)(=O)(=O)O | ClHO4
reactant | O-2-propynylhydroxylamine hydrochloride | 1.22 g | Cl.C(C#C)ON
product | 1-azabicyclo-[2,2,2]-octan-3-carboxaldehyde O-2-propynyloxime | 1.35 g | C(C#C)ON=CC1CN2CCC1CC2 | C11H16N2O
